US06822100B2
In 5 mL of acetic acid was combined 120 mg of crude N,N-dimethyl-2-(3-formyl-indol-5-yl)cycloprop-1-yl-methylamine, ammonium hydrogen phosphate (0.48 g, 3.62 mmol, 7.3 equiv.), and nitropropane (0.04 mL, 0.5 mmol, 1 equiv.). The mixture was stirred and heated to a gentle reflux for 16 h. Water was added after cooling reaction to room temperature, and the mixture was made basic by the addition of 1 N NaOH. The mixture was extracted with ethyl acetate and dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo to give N,N-dimethyl-2-(3-cyanoindol-5-yl)cycloprop-1-yl methylamine (90 mg, 75%) as a brown oil. The oil was purified by flash chromatography to give a brown solid with 92% purity by reverse-phase HPLC. 1H NMR (MeOH-d4): δ 7.88 (s, 1H), 7.40 (d, J=7.5 Hz, 1H), 7.36 (d, J=1.9 Hz, 1H), 7.04 (dd, J=8.5, 1.7 Hz, 1H), 2.62 (dd, J=7.3 Hz, 1H), 2.42 (m, 1H), 2.38 (s, 6H), 1.89 (m, 1H), 1.20 (m, 1H), 1.08 (m, 1H), and 0.90 (m, 1H). IR: 2214.5 cm−1. FIMS: 238.2 (M−H)−.

reactant | N,N-dimethyl-2-(3-formyl-indol-5-yl)cycloprop-1-yl-methylamine | 120 mg | CN(C)CC1C(C1)C=1C=C2C(=CNC2=CC1)C=O | C15H18N2O
reactant | ammonium hydrogen phosphate | 3.62 mmol, 0.48 g, 7.3 equiv. | P(=O)(O)([O-])[O-].[NH4+].[NH4+]
reactant | nitropropane | 0.5 mmol, 0.04 mL, 1 equiv. | [N+](=O)([O-])CCC | C3H7NO2
reactant | NaOH | 1 N | [OH-].[Na+]
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
solvent | Water | O | H2O
product | N,N-dimethyl-2-(3-cyanoindol-5-yl)cycloprop-1-yl methylamine | 90 mg, 75% | CN(C)CC1C(C1)C=1C=C2C(=CNC2=CC1)C#N | C15H17N3
